US04174209
4-benzylthio-1-methyl-3-phenyl-5-(3-trifluoromethylphenyl)-pyridinium chloride
A mixture of 2.0 g. of 1-methyl-3-phenyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinethione and 10 ml. of benzyl chloride in benzene was heated under reflux for 6 hours. The mixture was cooled and the benzene was removed in vacuo. The residue was put on a silica gel column in benzene and the column was flushed with benzene. The product was then removed from the column with denatured ethanol. The ethanol was removed and the residue was crystallized from ether yielding 0.7 g. of 4-benzylthio-1-methyl-3-phenyl-5-(3-trifluoromethylphenyl)pyridinium chloride, m.p. 70°-73°.

reactant | 1-methyl-3-phenyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinethione | CN1C=C(C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)=S)C1=CC=CC=C1 | C19H14F3NS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzylthio-1-methyl-3-phenyl-5-(3-trifluoromethylphenyl)-pyridinium chloride | [Cl-].C(C1=CC=CC=C1)SC1=C(C=[N+](C=C1C1=CC(=CC=C1)C(F)(F)F)C)C1=CC=CC=C1 | InChI=1S/C26H21F3NS.ClH/c1-30-16-23(20-11-6-3-7-12-20)25(31-18-19-9-4-2-5-10-19)24(17-30)21-13-8-14-22(15-21)26(27,28)29;/h2-17H,18H2,1H3;1H/q+1;/p-1
